### PR TITLE
[Merged by Bors] - feat: define continuous alternating maps

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 1]
```diff
@@ -0,0 +1,616 @@
...
+- multilinear : `f (update m i (c • x)) = c • f (update m i x)` and
+  `f (update m i (x + y)) = f (update m i x) + f (update m i y)`;
+- alternating `f v = 0` whenever `v` has two equal coordinates.
+-/
+structure ContinuousAlternatingMap (R M N ι : Type _) [Semiring R] [AddCommMonoid M] [Module R M]
+    [TopologicalSpace M] [AddCommMonoid N] [Module R N] [TopologicalSpace N] extends
+    ContinuousMultilinearMap R (fun _ : ι => M) N where
+  map_eq_zero_of_eq' : ∀ (v : ι → M) (i j : ι), v i = v j → i ≠ j → toFun v = 0
+
+notation "Λ^" ι "⟮" R "; " M "; " N "⟯" => ContinuousAlternatingMap R M N ι
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:35]: I have a problem with this notation: usually, `Λ^n(E)` is the alternating space of `E`, based on `n`-tensors of elements of `E` quotiented by the relation that kills pure tensors with two identical components. This is not a space of functions on `E^n` -- the space you are using is based on the dual space of `E`, and would usually by denoted by `Λ^n(E^*)`. In the same way that we have `E [×n]→L[𝕜] F` for continuous multilinear maps, maybe use `E [Λ, ×n]→L[𝕜] F` to lift the ambiguity? This would probably be worth discussing on Zulip, because other people may have strong opinions on this. Except that this notation only works well for `fin n`, not so much for a general indexing type...

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 2]
```diff
@@ -0,0 +1,616 @@
...
+/-- A continuous alternating map is a continuous map from `ι → M` to `N` that is
+
+- multilinear : `f (update m i (c • x)) = c • f (update m i x)` and
+  `f (update m i (x + y)) = f (update m i x) + f (update m i y)`;
+- alternating `f v = 0` whenever `v` has two equal coordinates.
+-/
+structure ContinuousAlternatingMap (R M N ι : Type _) [Semiring R] [AddCommMonoid M] [Module R M]
+    [TopologicalSpace M] [AddCommMonoid N] [Module R N] [TopologicalSpace N] extends
+    ContinuousMultilinearMap R (fun _ : ι => M) N where
+  map_eq_zero_of_eq' : ∀ (v : ι → M) (i j : ι), v i = v j → i ≠ j → toFun v = 0
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:33]: can't you extend `AlternatingMap R M N ι` instead of putting this explicit condition?

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 3]
```diff
@@ -0,0 +1,616 @@
...
+
+@[simp]
+theorem constOfIsEmpty_toAlternatingMap [IsEmpty ι] (m : N) :
+    (constOfIsEmpty R M ι m).toAlternatingMap = AlternatingMap.constOfIsEmpty R M ι m :=
+  rfl
+
+end
+
+/-- If `g` is continuous alternating and `f` is a collection of continuous linear maps,
+then `g (f₁ m₁, ..., fₙ mₙ)` is again a continuous alternating map, that we call
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:301]: The docstring is not correct, you need to compose with the same map at all indices.

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 4]
```diff
@@ -0,0 +1,616 @@
...
+`g.comp_continuous_linear_map f`. -/
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:302]:
```suggestion
`g.compContinuousLinearMap f`. -/
```

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 5]
```diff
@@ -0,0 +1,616 @@
...
+multiplicativity of a alternating map along the first variable. -/
+theorem vecCons_smul (f : ContinuousAlternatingMap R M N (Fin (n + 1))) (m : Fin n → M) (c : R)
+    (x : M) : f (vecCons (c • x) m) = c • f (vecCons x m) :=
+  f.toMultilinearMap.cons_smul m c x
+
+theorem map_piecewise_add [DecidableEq ι] (m m' : ι → M) (t : Finset ι) :
+    f (t.piecewise (m + m') m') = ∑ s in t.powerset, f (s.piecewise m m') :=
+  f.toMultilinearMap.map_piecewise_add _ _ _
+
+/-- Additivity of a continuous multilinear map along all coordinates at the same time,
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:394]:
```suggestion
/-- Additivity of a continuous alternating map along all coordinates at the same time,
```

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 6]
```diff
@@ -0,0 +1,616 @@
...
+
+end ApplySum
+
+section RestrictScalar
+
+variable (R)
+variable {A : Type _} [Semiring A] [SMul R A] [Module A M] [Module A N] [IsScalarTower R A M]
+  [IsScalarTower R A N]
+
+/-- Reinterpret an `A`-alternating map as an `R`-alternating map, if `A` is an algebra over `R`
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:429]:
```suggestion
/-- Reinterpret a continuous `A`-alternating map as a continuous `R`-alternating map, if `A` is an algebra over `R`
```

**Review by sgouezel — COMMENTED** [review]
LGTM, except for a notation issue and minor things.

File: Mathlib/Topology/Algebra/Module/Alternating.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Topology/Algebra/Module/Alternating.lean:33]: It was forward-ported from Lean 3. I'll try later today.

File: Mathlib/Topology/Algebra/Module/Alternating.lean (hunk 1 above)
Comment (PatrickMassot) [reply Mathlib/Topology/Algebra/Module/Alternating.lean:35]: I agree that `Λ^n(E)` is not the same as `Λ^n(E^*)` so this isn't yet the right notation.

Comment (urkud) [reply Mathlib/Topology/Algebra/Module/Alternating.lean]: I changed notation to `E [Λ^n]→L[𝕜] F` as suggested by @sgouezel on Zulip. Should I change it to `E [Λ, ×n]→L[𝕜] F`?

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 7]
```diff
@@ -0,0 +1,610 @@
...
+
+/-- A continuous alternating map is a continuous map from `ι → M` to `N` that is
+
+- multilinear : `f (update m i (c • x)) = c • f (update m i x)` and
+  `f (update m i (x + y)) = f (update m i x) + f (update m i y)`;
+- alternating : `f v = 0` whenever `v` has two equal coordinates.
+-/
+structure ContinuousAlternatingMap (R M N ι : Type _) [Semiring R] [AddCommMonoid M] [Module R M]
+    [TopologicalSpace M] [AddCommMonoid N] [Module R N] [TopologicalSpace N] extends
+    ContinuousMultilinearMap R (fun _ : ι => M) N, AlternatingMap R M N ι  where
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:32]:
```suggestion
    ContinuousMultilinearMap R (fun _ : ι => M) N, AlternatingMap R M N ι where
```

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 8]
```diff
@@ -0,0 +1,610 @@
...
+-/
+import Mathlib.LinearAlgebra.Alternating
+import Mathlib.Topology.Algebra.Module.Multilinear
+
+/-!
+# Continuous alternating multilinear maps
+
+In this file we define bundled continuous alternating maps and develop basic API about these
+maps, by reusing API about continuous multilinear maps and alternating maps.
+
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:14]: Can you mention the notation in the file-level docstring?

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 9]
```diff
@@ -0,0 +1,610 @@
...
+section Semiring
+
+variable {R M M' N N' ι : Type _} [CommSemiring R] [AddCommMonoid M] [Module R M]
+  [TopologicalSpace M] [AddCommMonoid M'] [Module R M'] [TopologicalSpace M'] [AddCommMonoid N]
+  [Module R N] [TopologicalSpace N] [ContinuousAdd N] [ContinuousConstSMul R N] [AddCommMonoid N']
+  [Module R N'] [TopologicalSpace N'] [ContinuousAdd N'] [ContinuousConstSMul R N']
+
+/-- `ContinuousAlternatingMap.compContinuousLinearMap` as a bundled `LinearMap`. -/
+@[simps]
+def compContinuousLinearMapₗ (f : M →L[R] M') : M' [Λ^ι]→L[R] N →ₗ[R] M [Λ^ι]→L[R] N where
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:566]:
```suggestion
def compContinuousLinearMapₗ (f : M →L[R] M') : (M' [Λ^ι]→L[R] N) →ₗ[R] (M [Λ^ι]→L[R] N) where
```
I know that the parentheses are not needed by Lean, but they can be useful to human readers as it's not everywhere the usual arrow priorities.

File: Mathlib/Topology/Algebra/Module/Alternating.lean [hunk 10]
```diff
@@ -0,0 +1,610 @@
...
+  toFun g := g.compContinuousLinearMap f
+  map_add' g g' := by ext; simp
+  map_smul' c g := by ext; simp
+
+variable (R M N N')
+
+/-- `ContinuousLinearMap.compContinuousAlternatingMap` as a bundled bilinear map. -/
+def _root_.ContinuousLinearMap.compContinuousAlternatingMapₗ :
+    (N →L[R] N') →ₗ[R] M [Λ^ι]→L[R] N →ₗ[R] M [Λ^ι]→L[R] N' :=
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Alternating.lean:575]:
```suggestion
    (N →L[R] N') →ₗ[R] (M [Λ^ι]→L[R] N) →ₗ[R] (M [Λ^ι]→L[R] N') :=
```
Same thing here. I am not even sure I got it right, by the way...

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks.
bors d+

**Comment by urkud** [comment]
bors merge
